US09163027B2
4-chloro-3-fluorophenoxy-ethylbromide
A mixture of 4-chloro-3-fluorophenol (0.30 g, 2.05 mmol), 1,2-dibromoethane (1.15 g, 6.14 mmol), sodium hydroxide (0.12 g, 3.07 mmol), and water (3 mL) was added to a 50 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser and warmed to an oil bath temperature of 80° C. The progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. Another portion of 1,2-dibromoethane (1.09 g, 5.8 mmol) was added, and heating was continued for 24 h. The mixture was allowed to cool to ambient temperature, diluted with 20 mL of water, and extracted with 30 mL of ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate (2×10 mL), saturated aqueous sodium chloride (10 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified by silical gel chromatography using a gradient elution of 0-100% ethyl acetate in hexanes. The title compound was obtained as a colorless oil (0.326 g, 63% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.48 (t, 1H), 7.12 (dd, 1H), 6.86 (dd, 1H), 4.35 (t, 2H), 3.80 (t, 2H).

reactant | 4-chloro-3-fluorophenol | 2.05 mmol, 0.30 g | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
reactant | 1,2-dibromoethane | 6.14 mmol, 1.15 g | BrCCBr | C2H4Br2
reactant | sodium hydroxide | 3.07 mmol, 0.12 g | [OH-].[Na+]
reactant | 1,2-dibromoethane | 5.8 mmol, 1.09 g | BrCCBr | C2H4Br2
solvent | water | 20 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | 4-chloro-3-fluorophenoxy-ethylbromide | ClC1=C(C=C(OCCBr)C=C1)F | C8H7BrClFO
